US04881969
2-Chloro-N-(5,7-dimethyl-1,8-naphthyridin-2-yl)-benzenesulfonamide
At an internal temperature of 40° to 50° C., 7.5 g (35.5 mmol) of 2-chlorobenzenesulfonyl chloride was slowly dripped, while stirring, into a suspension of 4.1 g (23.6 mmol) of commercially available 2-amino-5,7-dimethyl-1,8-naphthyridine in 100 ml of anhydrous pyridine.

reactant | 2-chlorobenzenesulfonyl chloride | 35.5 mmol, 7.5 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 2-amino-5,7-dimethyl-1,8-naphthyridine | NC1=NC2=NC(=CC(=C2C=C1)C)C | C10H11N3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-N-(5,7-dimethyl-1,8-naphthyridin-2-yl)-benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)NC1=NC2=NC(=CC(=C2C=C1)C)C | C16H14ClN3O2S
